data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2320,2576,[CH3:19][NH:20][C:21](=[O:22])[c-:23]1[nH+:24][c:25]([C:26](=[O:27])[O:28][CH3:29])[o:30][c:31]1=[O:32].[CH3:1][NH:2][C:3](=[O:4])/[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10](/[C:11](=[O:12])[NH:13][CH3:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([C:6](=[O:7])[O:8][CH3:9])[C@@:10]([C:11](=[O:12])[NH:13][CH3:14])([C:15](=[O:16])[O:17][CH3:18])[C:23]2([C:21]([NH:20][CH3:19])=[O:22])[NH:24][C:25]1([C:26](=[O:27])[O:28][CH3:29])[O:30][C:31]2=[O:32],water,298.15,29.112045944756776,13.34528539756914
27,30,[CH3:6][O:7][C:8](=[O:9])[N-:10][O+:11]=[C:12]([CH3:13])[CH3:14].[CH:1]#[C:2][C:3]([CH3:4])=[O:5]>>[CH:1]1=[C:2]([C:3]([CH3:4])=[O:5])[C:12]([CH3:13])([CH3:14])[O:11][N:10]1[C:8]([O:7][CH3:6])=[O:9],water,298.15,18.05668151197062,-51.1679443487205
4249,4860,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([O+:11]=[C:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20]([CH3:21])=[O:22].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:12]([CH3:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:20]([CH3:21])=[O:22],water,298.15,58.8513789710201,23.17456201909513
3234,3651,[CH3:10][C:11]#[N+:12][N-:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])=[N:12][N:13]1[C:14]([CH3:15])=[O:16],water,298.15,23.061061273249887,-28.237491917507302
1983,2203,[CH3:15][O:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([C:22]#[N:23])([C:24]([CH3:25])=[O:26])[N:20]=[C:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,14.41256661212701,-56.28401729561109
559,611,[CH3:13][N-:14][O+:15]=[CH:16][C:17](=[O:18])[O:19][CH3:20].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:16]([C:17](=[O:18])[O:19][CH3:20])[O:15][N:14]3[CH3:13],water,298.15,14.076020933863726,-70.55411595805394
701,762,[CH3:11][c-:12]1[o+:13][c:14]([C:15]#[N:16])[o:17][c:18]1=[O:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]1([C:15]#[N:16])[O:13][C:12]2([CH3:11])[C:18](=[O:19])[O:17]1,water,298.15,7.348768717390997,-30.462493722403497
4468,5100,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,25.08052729627592,-5.627657113919576
3954,4521,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]#[N+:11][C-:12]([C:13]([CH3:14])=[O:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:12]([C:13]([CH3:14])=[O:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[N:11]=[C:10]1[C:8]([CH3:7])=[O:9],water,298.15,15.43113141622004,-23.361437823481868
3086,3468,[CH3:9][c-:10]1[o+:11][n:12][o:13][c:14]1=[O:15].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:10]2([CH3:9])[O:11][N:12]1[O:13][C:14]2=[O:15],water,298.15,21.14602615615697,-19.39494390817392
5263,5968,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22](=[O:23])[NH:24][CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,water,298.15,11.701027084176244,-28.361135497233672
264,288,[CH3:14][C:15]([C:16]#[N:17])=[O+:18][O-:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[O:19][O:18][C:15]2([CH3:14])[C:16]#[N:17],water,298.15,4.752763985948526,-37.57748584833146
